US04021479
4-(2' ,3'-Dichloro-4-biphenylyl)-butyric acid
Prepared analogous to Example 12 from 4-(2' ,3'-dichloro-4-biphenylyl)-4-oxo-butyric acid. Yield: 97% of theory, m.p. 70°-71° C. (from petroleum ether/cyclohexane); melting point of the cyclohexylamine salt: 163°-165° C.

reactant | 4-(2' ,3'-dichloro-4-biphenylyl)-4-oxo-butyric acid | ClC1=C(C=CC=C1Cl)C1=CC=C(C=C1)C(CCC(=O)O)=O | C16H12Cl2O3
reactant | cyclohexylamine | C1(CCCCC1)N | C6H13N
product | 4-(2' ,3'-Dichloro-4-biphenylyl)-butyric acid | Yield: 97% | ClC1=C(C=CC=C1Cl)C1=CC=C(C=C1)CCCC(=O)O | C16H14Cl2O2
